US20010047006A1
Preparation of Intermediate (3-Benzyloxycarbonylamino-2-oxo-2H-pyridin-1-yl)acetic Acid
(3-Benzyloxycarbonylamino-2-oxo-2H-pyridin-1-yl)acetic acid tert-butyl ester (0.485 g, 1.35 mmol) was stirred in a 1:1 mixture of trifluoroacetic acid and CH2Cl2 at 23° C. for 1 h. The volatiles were then removed under reduced pressure and the residue was triturated with Et2O (40 mL). The resulting solid was filtered through a medium frit, washed with Et2O (20 mL) and air-dried to give the title intermediate (0.315 g, 77%): mp=171-173° C.; 1H NMR (DMSO-d6) δ 4.67 (s, 2H), 5.15 (s, 2H), 6.28 (t, 1H, J=7.1), 7.29-7.43 (m, 7H), 7.85 (dd, 1H, J=7.4, 1.7), 8.47 (s, 1H).

reactant | (3-Benzyloxycarbonylamino-2-oxo-2H-pyridin-1-yl)acetic acid tert-butyl ester | 1.35 mmol, 0.485 g | C(C)(C)(C)OC(CN1C(C(=CC=C1)NC(=O)OCC1=CC=CC=C1)=O)=O | C19H22N2O5
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (3-Benzyloxycarbonylamino-2-oxo-2H-pyridin-1-yl)acetic Acid | 0.315 g, 77% | C(C1=CC=CC=C1)OC(=O)NC=1C(N(C=CC1)CC(=O)O)=O | C15H14N2O5
